*
*|DSPF 1.5
*
*|DATE "Mon Jan 15 10:43:05 2024"
*|VENDOR "Cadence Design Systems"
*|PROGRAM "Cadence Quantus Extraction"
*|VERSION "22.1.0-p089 Linux 64 bit - (Thu Jan 19 11:47:08 PST 2023)"
*|DESIGN "OAI222X2"
*|DIVIDER /
*|DELIMITER #
*|DeviceFingerDelim "@"
*|BUSBIT []
*|GLOBAL_TEMPERATURE 25
*|OPERATING_TEMPERATURE 25
** QRC_TECH_DIR /vols/wfo_devel/projects/reference_SKY130/tech/sky130_release_0.0.1/quantus/extraction/typical 
** caps2d version: 10
*
.GLOBAL VDD VSS
*
.SUBCKT  OAI222X2 A0 A1 B0 B1 C0 C1 Y
*
*Net Section
*
*|GROUND_NET VSS
*
*|NET A0 5.68957e-16
*|P (A0 X 0 0.4720 2.0140)
*|I (MX46/M0#g MX46/M0 g X 0 0.4750 0.9700)
*|I (MX46/M1#g MX46/M1 g X 0 0.9050 0.9700)
*|I (MX52/M0#g MX52/M0 g X 0 0.4750 2.9850)
*|I (MX52/M1#g MX52/M1 g X 0 0.9050 2.9850)
*|S (A0#13 0.9050 2.1450)
*|S (A0#14 0.6900 2.1450)
*|S (A0#15 0.4450 2.1450)
*|S (A0#17 0.4600 2.1450)
C1 MX52/M1#g VSS 5.62112e-17
C2 MX52/M0#g VSS 6.49439e-17
C3 MX46/M1#g VSS 4.76026e-17
C4 MX46/M0#g VSS 4.87722e-17
C5 A0#14 VSS 1.32316e-16
C6 A0 VSS 2.19111e-16
Rg1 MX52/M1#g A0#13 263.348999 $W=0.15
Rg2 A0#13 A0#14 20.521515 $W=0.33
Rg3 A0#14 A0#15 20.521515 $W=0.33
Rg4 A0#15 MX46/M0#g 366.989502 $W=0.15
Rg5 A0#13 MX46/M1#g 366.989502 $W=0.15
Rg6 A0#15 MX52/M0#g 263.348999 $W=0.15
Rf7 A0#14 A0#17 24.817646 $W=0.17
Re8 A0 A0#17 152.062988 $W=0.26
*
*|NET A1 5.8334e-16
*|P (A1 X 0 1.3920 2.0190)
*|I (MX43/M0#g MX43/M0 g X 0 1.3350 0.9700)
*|I (MX43/M1#g MX43/M1 g X 0 1.7650 0.9700)
*|I (MX49/M0#g MX49/M0 g X 0 1.3350 2.9850)
*|I (MX49/M1#g MX49/M1 g X 0 1.7650 2.9850)
*|S (A1#13 1.7650 1.6250)
*|S (A1#14 1.5500 1.6250)
*|S (A1#15 1.3050 1.6250)
*|S (A1#17 1.3800 1.6250)
C7 MX49/M1#g VSS 6.73507e-17
C8 MX49/M0#g VSS 6.57312e-17
C9 MX43/M1#g VSS 5.02209e-17
C10 MX43/M0#g VSS 4.42706e-17
C11 A1#17 VSS 7.69658e-17
C12 A1#14 VSS 1.35599e-16
C13 A1 VSS 1.43202e-16
Rg9 MX49/M1#g A1#13 430.442322 $W=0.15
Rg10 A1#13 A1#14 20.521515 $W=0.33
Rg11 A1#14 A1#15 20.521515 $W=0.33
Rg12 A1#15 MX43/M0#g 199.896179 $W=0.15
Rg13 A1#13 MX43/M1#g 199.896179 $W=0.15
Rg14 A1#15 MX49/M0#g 430.442352 $W=0.15
Rf15 A1#14 A1#17 20.299999 $W=0.17
Re16 A1 A1#17 152.189423 $W=0.26
*
*|NET B0 5.95519e-16
*|P (B0 X 0 2.7720 2.0040)
*|I (MX44/M0#g MX44/M0 g X 0 3.1450 0.9700)
*|I (MX44/M1#g MX44/M1 g X 0 2.7150 0.9700)
*|I (MX50/M0#g MX50/M0 g X 0 3.1450 2.9850)
*|I (MX50/M1#g MX50/M1 g X 0 2.7150 2.9850)
*|S (B0#13 3.1450 2.1450)
*|S (B0#14 2.9300 2.1450)
*|S (B0#15 2.6850 2.1450)
*|S (B0#17 2.7600 2.1450)
C14 MX50/M1#g VSS 6.71923e-17
C15 MX50/M0#g VSS 5.84596e-17
C16 MX44/M1#g VSS 5.15579e-17
C17 MX44/M0#g VSS 5.44237e-17
C18 B0#17 VSS 2.25813e-16
C19 B0#14 VSS 1.38072e-16
Rg17 MX50/M0#g B0#13 263.348999 $W=0.15
Rg18 B0#13 B0#14 20.521515 $W=0.33
Rg19 B0#14 B0#15 20.521515 $W=0.33
Rg20 B0#15 MX44/M1#g 366.989502 $W=0.15
Rg21 B0#13 MX44/M0#g 366.989502 $W=0.15
Rg22 B0#15 MX50/M1#g 263.348999 $W=0.15
Rf23 B0#14 B0#17 20.299999 $W=0.17
Re24 B0 B0#17 152.067795 $W=0.26
*
*|NET B1 6.11794e-16
*|P (B1 X 0 3.6920 2.0340)
*|I (MX47/M0#g MX47/M0 g X 0 4.0050 0.9700)
*|I (MX47/M1#g MX47/M1 g X 0 3.5750 0.9700)
*|I (MX53/M0#g MX53/M0 g X 0 4.0050 2.9850)
*|I (MX53/M1#g MX53/M1 g X 0 3.5750 2.9850)
*|S (B1#13 4.0050 1.6250)
*|S (B1#14 3.7900 1.6250)
*|S (B1#15 3.5450 1.6250)
*|S (B1#17 3.6800 1.6250)
C20 MX53/M1#g VSS 6.35116e-17
C21 MX53/M0#g VSS 6.75205e-17
C22 MX47/M1#g VSS 4.98236e-17
C23 MX47/M0#g VSS 5.61351e-17
C24 B1#17 VSS 8.85824e-17
C25 B1#14 VSS 1.42218e-16
C26 B1 VSS 1.44003e-16
Rg25 MX53/M0#g B1#13 430.442322 $W=0.15
Rg26 B1#13 B1#14 20.521515 $W=0.33
Rg27 B1#14 B1#15 20.521515 $W=0.33
Rg28 B1#15 MX47/M1#g 199.896179 $W=0.15
Rg29 B1#13 MX47/M0#g 199.896179 $W=0.15
Rg30 B1#15 MX53/M1#g 430.442352 $W=0.15
Rf31 B1#14 B1#17 15.782353 $W=0.17
Re32 B1 B1#17 152.196640 $W=0.26
*
*|NET C0 6.5468e-16
*|P (C0 X 0 5.0720 2.0790)
*|I (MX48/M0#g MX48/M0 g X 0 4.9550 0.9700)
*|I (MX48/M1#g MX48/M1 g X 0 5.3850 0.9700)
*|I (MX54/M0#g MX54/M0 g X 0 4.9550 2.9850)
*|I (MX54/M1#g MX54/M1 g X 0 5.3850 2.9850)
*|S (C0#13 5.3850 2.1450)
*|S (C0#14 5.1700 2.1450)
*|S (C0#15 4.9250 2.1450)
*|S (C0#17 5.0600 2.1450)
C27 MX54/M1#g VSS 6.0221e-17
C28 MX54/M0#g VSS 6.60268e-17
C29 MX48/M1#g VSS 5.46661e-17
C30 MX48/M0#g VSS 5.43831e-17
C31 C0#14 VSS 1.36145e-16
C32 C0 VSS 2.83238e-16
Rg33 MX54/M1#g C0#13 263.348999 $W=0.15
Rg34 C0#13 C0#14 20.521515 $W=0.33
Rg35 C0#14 C0#15 20.521515 $W=0.33
Rg36 C0#15 MX48/M0#g 366.989502 $W=0.15
Rg37 C0#13 MX48/M1#g 366.989502 $W=0.15
Rg38 C0#15 MX54/M0#g 263.348999 $W=0.15
Rf39 C0#14 C0#17 15.782353 $W=0.17
Re40 C0#17 C0 152.031738 $W=0.26
*
*|NET C1 6.71701e-16
*|P (C1 X 0 5.9920 2.0340)
*|I (MX45/M0#g MX45/M0 g X 0 5.8150 0.9700)
*|I (MX45/M1#g MX45/M1 g X 0 6.2450 0.9700)
*|I (MX51/M0#g MX51/M0 g X 0 5.8150 2.9850)
*|I (MX51/M1#g MX51/M1 g X 0 6.2450 2.9850)
*|S (C1#13 6.2450 1.6250)
*|S (C1#14 6.0300 1.6250)
*|S (C1#15 5.7850 1.6250)
*|S (C1#17 5.9800 1.6250)
C33 MX51/M1#g VSS 6.87628e-17
C34 MX51/M0#g VSS 6.36423e-17
C35 MX45/M1#g VSS 5.43592e-17
C36 MX45/M0#g VSS 5.16782e-17
C37 C1#17 VSS 1.09477e-16
C38 C1#14 VSS 1.45255e-16
C39 C1 VSS 1.78527e-16
Rg41 MX51/M1#g C1#13 430.442322 $W=0.15
Rg42 C1#13 C1#14 20.521515 $W=0.33
Rg43 C1#14 C1#15 20.521515 $W=0.33
Rg44 C1#15 MX45/M0#g 199.896179 $W=0.15
Rg45 C1#13 MX45/M1#g 199.896179 $W=0.15
Rg46 C1#15 MX51/M0#g 430.442352 $W=0.15
Rf47 C1#14 C1#17 11.264706 $W=0.17
Re48 C1 C1#17 152.196640 $W=0.26
*
*|NET Y 2.51373e-15
*|P (Y X 0 5.5320 2.1340)
*|I (MX48/M0#d MX48/M0 d X 0 5.0305 0.9700)
*|I (MX48/M1#s MX48/M1 s X 0 5.3095 0.9700)
*|I (MX45/M0#d MX45/M0 d X 0 5.8905 0.9700)
*|I (MX45/M1#s MX45/M1 s X 0 6.1695 0.9700)
*|I (MX53/M0#d MX53/M0 d X 0 3.9295 2.9850)
*|I (MX53/M1#s MX53/M1 s X 0 3.6505 2.9850)
*|I (MX51/M0#d MX51/M0 d X 0 5.8905 2.9850)
*|I (MX51/M1#s MX51/M1 s X 0 6.1695 2.9850)
*|I (MX49/M0#d MX49/M0 d X 0 1.4105 2.9850)
*|I (MX49/M1#s MX49/M1 s X 0 1.6895 2.9850)
*|S (Y#1 1.5500 3.0750)
*|S (Y#3 3.7900 3.0750)
*|S (Y#5 5.1700 1.0650)
*|S (Y#7 6.0300 3.0750)
*|S (Y#9 6.0300 1.0650)
*|S (Y#12 5.5200 3.0000)
*|S (Y#15 5.5200 1.1400)
C40 MX49/M0#d VSS 2.01855e-16
C41 MX51/M0#d VSS 2.00113e-16
C42 MX53/M0#d VSS 2.01108e-16
C43 MX45/M0#d VSS 1.53917e-16
C44 MX48/M0#d VSS 1.37213e-16
C45 Y#15 VSS 1.6057e-16
C46 Y#12 VSS 2.67248e-16
C47 Y#1 VSS 2.85168e-16
C48 Y#3 VSS 3.8886e-16
C49 Y#5 VSS 8.69578e-17
C50 Y#9 VSS 1.09172e-16
C51 Y#7 VSS 9.57766e-17
C52 Y VSS 2.25772e-16
Rf49 Y#1 MX49/M0#d 11.776471 $W=0.17
Rf50 Y#3 MX53/M0#d 163.776474 $W=0.17
Rf51 Y#5 MX48/M0#d 14.652941 $W=0.17
Rf52 Y#7 MX51/M0#d 11.776471 $W=0.17
Rf53 Y#9 MX45/M0#d 14.652941 $W=0.17
Re54 Y#7 Y#12 152.391556 $W=0.14
Re55 Y#12 Y#3 1.480837 $W=0.14
Re56 Y#3 Y#1 153.893784 $W=0.14
Re57 Y#12 Y 0.382933 $W=0.26
Re58 Y Y#15 0.444471 $W=0.26
Re59 Y#15 Y#5 152.248688 $W=0.14
Re60 Y#15 Y#9 152.391556 $W=0.14
Rmw61 MX48/M1#s MX48/M0#d 0.001000 $W=1000000
Rmw62 MX45/M1#s MX45/M0#d 0.001000 $W=1000000
Rmw63 MX53/M1#s MX53/M0#d 0.001000 $W=1000000
Rmw64 MX51/M1#s MX51/M0#d 0.001000 $W=1000000
Rmw65 MX49/M1#s MX49/M0#d 0.001000 $W=1000000
*
*|NET 1 1.4257e-15
*|I (MX47/M0#s MX47/M0 s X 0 4.0805 0.9700)
*|I (MX47/M1#d MX47/M1 d X 0 3.4995 0.9700)
*|I (MX46/M0#s MX46/M0 s X 0 0.3995 0.9700)
*|I (MX46/M1#d MX46/M1 d X 0 0.9805 0.9700)
*|I (MX44/M0#s MX44/M0 s X 0 3.2205 0.9700)
*|I (MX44/M1#d MX44/M1 d X 0 2.6395 0.9700)
*|I (MX43/M0#s MX43/M0 s X 0 1.2595 0.9700)
*|I (MX43/M1#d MX43/M1 d X 0 1.8405 0.9700)
*|S (1 0.2600 1.0650)
*|S (1#3 1.1200 1.0650)
*|S (1#5 1.9800 1.0650)
*|S (1#7 2.5000 1.0650)
*|S (1#9 3.3600 1.0650)
*|S (1#11 4.2200 1.0650)
C53 MX43/M1#d VSS 8.71689e-17
C54 MX44/M1#d VSS 7.80082e-17
C55 MX46/M1#d VSS 1.33301e-16
C56 MX46/M0#s VSS 9.33574e-17
C57 MX47/M1#d VSS 1.48408e-16
C58 MX47/M0#s VSS 1.29181e-16
C59 1#3 VSS 1.21808e-16
C60 1#5 VSS 8.06594e-17
C61 1#7 VSS 1.2038e-16
C62 1#9 VSS 1.83308e-16
C63 1#11 VSS 1.35074e-16
C64 1 VSS 1.15048e-16
Rf66 1 MX46/M0#s 14.652941 $W=0.17
Rf67 1#3 MX46/M1#d 166.652939 $W=0.17
Rf68 1#5 MX43/M1#d 166.652939 $W=0.17
Rf69 1#7 MX44/M1#d 166.652939 $W=0.17
Rf70 1#9 MX47/M1#d 166.652939 $W=0.17
Rf71 1#11 MX47/M0#s 14.652941 $W=0.17
Re72 1#11 1#9 152.661636 $W=0.14
Re73 1#9 1#7 0.661638 $W=0.14
Re74 1#7 1#5 0.358066 $W=0.14
Re75 1#5 1#3 0.661638 $W=0.14
Re76 1#3 1 152.661636 $W=0.14
Rmw77 MX44/M0#s MX47/M1#d 0.001000 $W=1000000
Rmw78 MX43/M0#s MX46/M1#d 0.001000 $W=1000000
*
*|NET 2 9.25942e-16
*|I (MX52/M0#s MX52/M0 s X 0 0.3995 2.9850)
*|I (MX52/M1#d MX52/M1 d X 0 0.9805 2.9850)
*|I (MX49/M0#s MX49/M0 s X 0 1.2595 2.9850)
*|I (MX49/M1#d MX49/M1 d X 0 1.8405 2.9850)
*|S (2 0.2600 3.3850)
*|S (2#3 1.1200 3.3850)
*|S (2#5 1.9800 3.3850)
C65 MX49/M1#d VSS 1.74574e-16
C66 MX52/M1#d VSS 1.94817e-16
C67 MX52/M0#s VSS 1.61295e-16
C68 2#3 VSS 1.39279e-16
C69 2#5 VSS 1.52053e-16
C70 2 VSS 1.03924e-16
Rf79 2 MX52/M0#s 35.117649 $W=0.17
Rf80 2#3 MX52/M1#d 187.117645 $W=0.17
Rf81 2#5 MX49/M1#d 35.117649 $W=0.17
Re82 2#5 2#3 152.661636 $W=0.14
Re83 2#3 2 152.661636 $W=0.14
Rmw84 MX49/M0#s MX52/M1#d 0.001000 $W=1000000
*
*|NET 4 1.03699e-15
*|I (MX53/M0#s MX53/M0 s X 0 4.0805 2.9850)
*|I (MX53/M1#d MX53/M1 d X 0 3.4995 2.9850)
*|I (MX50/M0#s MX50/M0 s X 0 3.2205 2.9850)
*|I (MX50/M1#d MX50/M1 d X 0 2.6395 2.9850)
*|S (4 2.5000 3.3850)
*|S (4#3 3.3600 3.3850)
*|S (4#5 4.2200 3.3850)
C71 MX50/M1#d VSS 1.83723e-16
C72 MX53/M1#d VSS 2.11131e-16
C73 MX53/M0#s VSS 1.75274e-16
C74 4#3 VSS 1.75016e-16
C75 4#5 VSS 1.52053e-16
C76 4 VSS 1.39792e-16
Rf85 4 MX50/M1#d 35.117649 $W=0.17
Rf86 4#3 MX53/M1#d 187.117645 $W=0.17
Rf87 4#5 MX53/M0#s 35.117649 $W=0.17
Re88 4#5 4#3 152.661636 $W=0.14
Re89 4#3 4 152.661636 $W=0.14
Rmw90 MX50/M0#s MX53/M1#d 0.001000 $W=1000000
*
*|NET 5 1.49145e-15
*|I (MX48/M0#s MX48/M0 s X 0 4.8795 0.9700)
*|I (MX48/M1#d MX48/M1 d X 0 5.4605 0.9700)
*|I (MX47/M0#d MX47/M0 d X 0 3.9295 0.9700)
*|I (MX47/M1#s MX47/M1 s X 0 3.6505 0.9700)
*|I (MX45/M0#s MX45/M0 s X 0 5.7395 0.9700)
*|I (MX45/M1#d MX45/M1 d X 0 6.3205 0.9700)
*|I (MX44/M0#d MX44/M0 d X 0 3.0695 0.9700)
*|I (MX44/M1#s MX44/M1 s X 0 2.7905 0.9700)
*|S (5 2.9300 0.9700)
*|S (5#2 2.9300 0.7550)
*|S (5#4 3.7900 0.7550)
*|S (5#6 4.7400 0.7550)
*|S (5#8 5.6000 0.7550)
*|S (5#10 6.4600 0.7550)
C77 MX47/M0#d VSS 6.20859e-20
C78 5#2 VSS 2.85472e-16
C79 5#4 VSS 3.52898e-16
C80 5#6 VSS 2.78775e-16
C81 5#8 VSS 3.42181e-16
C82 5#10 VSS 2.31453e-16
C83 5 VSS 6.09867e-19
Rf91 5 5#2 23.688236 $W=0.17
Rf92 MX47/M0#d 5#4 175.688232 $W=0.17
Rf93 MX48/M0#s 5#6 175.688232 $W=0.17
Rf94 MX48/M1#d 5#8 175.688232 $W=0.17
Rf95 MX45/M1#d 5#10 23.688236 $W=0.17
Re96 5#10 5#8 152.661636 $W=0.14
Re97 5#8 5#6 0.661638 $W=0.14
Re98 5#6 5#4 0.741995 $W=0.14
Re99 5#4 5#2 152.661636 $W=0.14
Rmw100 MX47/M1#s MX47/M0#d 0.001000 $W=1000000
Rmw101 MX45/M0#s MX48/M1#d 0.001000 $W=1000000
Rmw102 MX44/M0#d 5 0.001000 $W=1000000
Rmw103 MX44/M1#s 5 0.001000 $W=1000000
*
*|NET 6 9.72456e-16
*|I (MX54/M0#s MX54/M0 s X 0 4.8795 2.9850)
*|I (MX54/M1#d MX54/M1 d X 0 5.4605 2.9850)
*|I (MX51/M0#s MX51/M0 s X 0 5.7395 2.9850)
*|I (MX51/M1#d MX51/M1 d X 0 6.3205 2.9850)
*|S (6 4.7400 3.3850)
*|S (6#3 5.6000 3.3850)
*|S (6#5 6.4600 3.3850)
C84 MX51/M1#d VSS 1.46986e-16
C85 MX54/M1#d VSS 2.07119e-16
C86 MX54/M0#s VSS 1.82692e-16
C87 6#3 VSS 1.7771e-16
C88 6#5 VSS 1.18235e-16
C89 6 VSS 1.39714e-16
Rf104 6 MX54/M0#s 35.117649 $W=0.17
Rf105 6#3 MX54/M1#d 187.117645 $W=0.17
Rf106 6#5 MX51/M1#d 35.117649 $W=0.17
Re107 6#5 6#3 152.661636 $W=0.14
Re108 6#3 6 152.661636 $W=0.14
Rmw109 MX51/M0#s MX54/M1#d 0.001000 $W=1000000
*
*Instance Section
*
MX48/M0	MX48/M0#d	MX48/M0#g	MX48/M0#s	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX48/M1	MX48/M1#d	MX48/M1#g	MX48/M1#s	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX47/M0	MX47/M0#d	MX47/M0#g	MX47/M0#s	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX47/M1	MX47/M1#d	MX47/M1#g	MX47/M1#s	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX46/M0	VSS	MX46/M0#g	MX46/M0#s	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX46/M1	MX46/M1#d	MX46/M1#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX45/M0	MX45/M0#d	MX45/M0#g	MX45/M0#s	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX45/M1	MX45/M1#d	MX45/M1#g	MX45/M1#s	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX44/M0	MX44/M0#d	MX44/M0#g	MX44/M0#s	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX44/M1	MX44/M1#d	MX44/M1#g	MX44/M1#s	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX43/M0	VSS	MX43/M0#g	MX43/M0#s	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX43/M1	MX43/M1#d	MX43/M1#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX54/M0	VDD	MX54/M0#g	MX54/M0#s	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
MX54/M1	MX54/M1#d	MX54/M1#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
MX53/M0	MX53/M0#d	MX53/M0#g	MX53/M0#s	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
MX53/M1	MX53/M1#d	MX53/M1#g	MX53/M1#s	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
MX52/M0	VDD	MX52/M0#g	MX52/M0#s	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
MX52/M1	MX52/M1#d	MX52/M1#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
MX51/M0	MX51/M0#d	MX51/M0#g	MX51/M0#s	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
MX51/M1	MX51/M1#d	MX51/M1#g	MX51/M1#s	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
MX50/M0	VDD	MX50/M0#g	MX50/M0#s	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
MX50/M1	MX50/M1#d	MX50/M1#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
MX49/M0	MX49/M0#d	MX49/M0#g	MX49/M0#s	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
MX49/M1	MX49/M1#d	MX49/M1#g	MX49/M1#s	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
.ENDS
